US09029560B2
Sodium hydride (60% oil immersion, 0.48 g, 12 mmol) was added to a dry, oven-dried round bottomed flask and placed under nitrogen. Diethyl ether (9 mL) was added, followed by absolute ethanol (0.05 mL), and the reaction was cooled in an ice bath. Ethyl 2-fluoroacetate (0.87 mL, 9.0 mmol) was added dropwise. The reaction was stirred for 15 minutes in ice bath (gas evolution ceased). 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde (2.2 g, 6.5 mmol) was added in solid portions. The solution slowly turned color to a golden yellow. The ice bath was removed after 1 hour and warmed to room temperature, stirring for an additional 2 hours until the reaction was quenched with saturated aqueous ammonium chloride, diluted with diethyl ether, and stirred at room temperature for 3 days. The biphasic solution was diluted with brine and extracted with ethyl acetate (2×). The organic layers were dried organic over anhydrous sodium sulfate, filtered, and concentrated to give an orange liquid. The crude material was purified by reverse-phase flash column chromatography using 0-100% acetonitrile/water as eluent to afford the intermediate ethyl 2-fluoro-3-hydroxy-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate as a crude compound (0.11 g).

reactant | Sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | Ethyl 2-fluoroacetate | 9.0 mmol, 0.87 mL | FCC(=O)OCC | C4H7FO2
reactant | 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde | 6.5 mmol, 2.2 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
product | ethyl 2-fluoro-3-hydroxy-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate | FC(C(=O)OCC)C(C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)O | C20H17F4N3O4
